US07622494B2
6-Bromo-9-methyl-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared by addition of methyl iodide (0.016 mL, 0.25 mmol) to a solution of 6-bromo-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt (0.05 g, 0.12 mmol) and sodium hydride (0.04 mL, 0.25 mmol) in THF (2.0 mL) that was under inert atmosphere and cooled to 0° C. The mixture was allowed to warm to room temperature and stirred for 12 hrs. The reaction was quenched with saturated (“sat.”) ammonium chloride (“NH4Cl”) (2.0 mL), ethyl acetate was added (10 mL), the organic layer was separated and washed with sat. NaCl (2.0 mL), dried over sodium sulfate (“Na2SO4”), filtered and evaporated to leave an oily residue. Purification by flash chromatography with 10-50% gradient ethyl acetate/hexanes eluent afforded a clear oil that was converted to the HCl salt to give a white solid (0.005 g, 9%). 1H-NMR (CDCl3): δ 7.57 (s, 1H), 7.31-7.21 (m, 7H), 7.09 (d, 1H), 3.86 (m, 1H), 3.53 (s, 3H), 3.19-3.13 (m, 1H), 2.94-2.87 (m, 1H), 2.84-2.80 (m, 2H), 2.74-2.67 (m, 1H), 2.55-2.47 (m, 1H), 2.17-2.11 (m, 1H), 1.83-1.70 (m, 3H); MS m/z 381, 383 (M−1).

reactant | methyl iodide | 0.25 mmol, 0.016 mL | CI | CH3I
reactant | 6-bromo-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | 0.12 mmol, 0.05 g | Cl.BrC=1C=C2C=3CCCC(C3NC2=CC1)NCCC1=CC=CC=C1
reactant | sodium hydride | 0.25 mmol, 0.04 mL | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-Bromo-9-methyl-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.BrC=1C=C2C=3CCCC(C3N(C2=CC1)C)NCCC1=CC=CC=C1 | InChI=1S/C21H23BrN2.ClH/c1-24-20-11-10-16(22)14-18(20)17-8-5-9-19(21(17)24)23-13-12-15-6-3-2-4-7-15;/h2-4,6-7,10-11,14,19,23H,5,8-9,12-13H2,1H3;1H
